US07001917B2
Step 1. 2-[4-(4-Cyclohexyl-3,5-dimethyl-1H-pyrazol-1-yl)phenyl]ethanol
The title compound was prepared according to the procedure described in step 1 of Example 1 from 3-cyclohexylpentane-2,4-dione (Tetrahedron, 1991, 47, 6511) and 2-(4-hydrazinophenyl)ethanol hydrochloride: 1H-NMR (CDCl3) δ 7.36-7.30 (4H, m), 391 (2H, t, J=6.6 Hz), 2.91 (2H, t, J=6.6 Hz), 2.31 (3H, s), 2.24 (3H, s), 1.82-1.26 (11H, m).

reactant | 3-cyclohexylpentane-2,4-dione | C1(CCCCC1)C(C(C)=O)C(C)=O | C11H18O2
reactant | 2-(4-hydrazinophenyl)ethanol hydrochloride | Cl.N(N)C1=CC=C(C=C1)CCO
product | 2-[4-(4-Cyclohexyl-3,5-dimethyl-1H-pyrazol-1-yl)phenyl]ethanol | C1(CCCCC1)C=1C(=NN(C1C)C1=CC=C(C=C1)CCO)C | C19H26N2O
